US08629169B2
Step 6: (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid
Triethylamine (407.27 mL, 2.92 mol) and [2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile] (308.39 g, 1.25 mol) are added to a suspension of (1S,2R,3S,4S,5R,6R)-2-amino-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid (300.00 g, 834.84 mmol) in 1,4-dioxane (500.9 mL) and water (500.9 mL) at 25° C. The mixture is warmed to 50° C. After 12 hours, the reaction is cooled to 25° C., diluted with water (2.5 L), and washed with methyl tert-butyl ether (6×1 L). Basify the aqueous phase with a solution of aqueous. 1N HCl until pH=2, and extract with ethyl acetate (3×2 L). The combined ethyl acetate extracts are washed with brine, dried over MgSO4, and concentrated in vacuo to yield the title compound (250 g, 65% yield). MS (m/z): 360 (M+-Boc).

reactant | Triethylamine | 2.92 mol, 407.27 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | (1S,2R,3S,4S,5R,6R)-2-amino-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 834.84 mmol, 300.00 g | N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)O)C(=O)O | C15H15F2NO5S
solvent | 1,4-dioxane | 500.9 mL | O1CCOCC1 | C4H8O2
solvent | water | 500.9 mL | O | H2O
solvent | water | 2.5 L | O | H2O
product | (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 250 g, 65% yield | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)O)C(=O)O | C20H23F2NO7S
